US04116951
H-Ser(Bzl)-OH (18.6 g, 95.4 mmol) was dissolved in 45 ml of Triton B (40% methanolic solution of Trimethylbenzylammonium Hydroxide), evaporated to dryness and the residue re-evaporated twice with DMF (250 ml each). The oily residue was taken up in DMF (250 ml) and stirred with Ac-OSu (16.5 g, 95.4 mmol) for 5 hr. A few ml (~5 ml) of NMM was added to bring the reaction to slightly basic conditions during this period of time. Acidic acid (~5 ml) was then added and the solvents removed by evaporation, leaving an oily residue which was partitioned between 5% HOAc and EtOAc. The aqueous layer was extracted once more with EtOAc and the combined EtOAc solution washed twice with small volumes of H2O, dried over Na2SO4, and evaporated to approximately 300 ml (one-third of original volume). Crystalline product formed immediately when DCHA was added to a slightly basic condition (~35 ml). The crude material (32.5 g, mp 135°-145° ) was recrystallized from EtOH (150 ml) and ether (900 ml): Yield, 17.8 g (44.7%); mp 166°-168°; [α]D25 = +34.18° (c l, MeOH).

reactant | H-Ser(Bzl)-OH | 95.4 mmol, 18.6 g | N[C@@H](COCC1=CC=CC=C1)C(=O)O | C10H13NO3
reactant | Trimethylbenzylammonium Hydroxide | [OH-].C[N+](CC1=CC=CC=C1)(C)C
reactant | Ac-OSu | 95.4 mmol, 16.5 g | C(=O)(C)ON1C(=O)CCC1=O | C6H7NO4
reactant | NMM | ~5 ml | CN1CCOCC1 | C5H11NO
product | DCHA | C1CCC(CC1)NC2CCCCC2 | C12H23N
